US06699879B1
2-Ethyl-5-nitrobenzoic Acid Methyl Ester
2-Bromo-5-nitrobenzoic acid methyl ester (1.0 g), lithium chloride (0.49 g), tetraethyltin (0.96 g) and bis(triphenylphosphine)-palladium(II)chloride (0.1 g) were combined in dimethylformamide (20 ml) and heated at 100° C. for 8 h. Solvent was removed at reduced pressure and the residue column chromatographed (silica gel, dichloromethane/petroleum ether 30:70) to give the title compound (0.45 g). 1H NMR (CDCl3) δ: 1.28 (3H, t, J=7.4 Hz), 3.10 (2H, q, J=7.4Hz), 3.96 (3H, s), 7.47 (1H, d, J=8.5 Hz), 8.27 (1H, dd, J=2.5, 8.5 Hz), 8.73 (1H, d, J=2.5 Hz)

reactant | 2-Bromo-5-nitrobenzoic acid methyl ester | 1.0 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])Br)=O | C8H6BrNO4
reactant | lithium chloride | 0.49 g | [Cl-].[Li+]
reactant | tetraethyltin | 0.96 g | C(C)[Sn](CC)(CC)CC
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)-palladium(II)chloride | 0.1 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-Ethyl-5-nitrobenzoic Acid Methyl Ester | 0.45 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])CC)=O | C10H11NO4
